US05780472
b) 1-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl piperazine
After 1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-benzyl piperazine (1.71 g, 4.61 mmol) was added the solution of 30 ml of ethanol and 10 ml of glacial acetic acid in the presence of 5% Pd/C, the reaction mixture were stirred under hydrogen gas(40 psi) for 4 hours and extracted with dichloromethane. The mixture was dried with anhydrous magnesium sulfate, filtrated, concentrated and chromatographed to obtain 1.2 g of white solid of the titled compound.

reactant | 1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-benzyl piperazine | 4.61 mmol, 1.71 g | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C21H28N4O2
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl piperazine | 1.2 g, yield: 93% | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCNCC1 | C14H22N4O2
